US04820834
(S-(R*,S*))-(2-((5-(2-Fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl)amino)-2-oxo-1-(phenylmethyl)ethyl)-carbamic acid 1,1-dimethylethyl ester
The procedure of Example 77 was carried out in which Boc-D-phenylalanine was coupled to 3(S)-(-)-amino-1,3-dihydro-1-methyl-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one with dicyclohexylcarbodiimide. Following the identical work-up and purification procedure of Example 77 gave the analytical product.

reactant | Boc-D-phenylalanine | C(=O)(OC(C)(C)C)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 3(S)-(-)-amino-1,3-dihydro-1-methyl-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | N[C@@H]1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)C)=O | C16H14FN3O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | (2-((5-(2-Fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl)amino)-2-oxo-1-(phenylmethyl)ethyl)-carbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(NC(C(=O)NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)C)=O)CC2=CC=CC=C2)=O | C30H31FN4O4
